US06498165B1
Step A: 3-chloro-6-(3-dimethylaminopropan-1-oxy)pyridazin
To a solution of 3-dimethylamino-propanol (95 μL) in 5 mL of THF at 0° C. was added NaH (20 mg). The mixture was stirred for 5 min; then 3,6-dichloropyridazine (100 mg) was added and the mixture was allowed to warm to room temperature and stirred overnight at this temperature. The mixture was diluted with 5 mL of water and 5 mL of EtOAc, the phases were separated, and the aqueous phase was extracted with 2×5 mL of EtOAc. The combined organics were washed with 5 mL of brine, dried over Na2SO4 and concentrated to a colorless oil (128 mg) that was used without further purification. Mass spectrum (ESI) 215.9 (M+).

reactant | 3-dimethylamino-propanol | 95 μL | CN(CCCO)C | C5H13NO
reactant | NaH | 20 mg | [H-].[Na+]
reactant | 3,6-dichloropyridazine | 100 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 3-chloro-6-(3-dimethylaminopropan-1-oxy)pyridazin | ClC=1N=NC(=CC1)OCCCN(C)C | C9H14ClN3O
